US04125729
Methyl α-(p-chlorophenylthio)-α-(p-iodophenyl)acetate
In a similar manner as in Example 29, 12.7 g of methyl α-bromo-α-(p-iodophenyl)acetate is reacted with 6.47 g of 4-chlorothiophenol in methanol to yield a white solid, mp 44°-46° C.

reactant | methyl α-bromo-α-(p-iodophenyl)acetate | 12.7 g | BrC(C(=O)OC)C1=CC=C(C=C1)I | C9H8BrIO2
reactant | 4-chlorothiophenol | 6.47 g | ClC1=CC=C(C=C1)S | C6H5ClS
solvent | methanol | CO | CH4O
product | Methyl α-(p-chlorophenylthio)-α-(p-iodophenyl)acetate | ClC1=CC=C(C=C1)SC(C(=O)OC)C1=CC=C(C=C1)I | C15H12ClIO2S
